US09226916B2
rac-{(3R,4S)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid butyl ester
In analogy to the procedure described for the synthesis of example 2 (step b), the title compound rac-{(3R,4S)-4-(4-chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid butyl ester was prepared from rac-{4-[(3S,4R)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone instead of rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using butyl chloroformate instead of 4-fluoro-phenyl chloroformate and was obtained as a light yellow foam. MS m/e: 504.2 [M]+.

reactant | rac-{4-[(3S,4R)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC1=CC=C(C=C1)[C@H]1CN(C[C@@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H30ClN3O2
reactant | butyl chloroformate | ClC(=O)OCCCC | C5H9ClO2
product | rac-{(3R,4S)-4-(4-chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid butyl ester | C(CCC)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C27H38ClN3O4
